US05789406
20 ml of 30% sodium hydroxide solution are added, at a temperature in the region of 20° C., to 1 g of 8-(3-ethoxycarbonylmethylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one in suspension in 40 ml of ethanol. The reaction is continued for 18 hours at 50° C. After cooling to a temperature in the region of 20° C., the precipitate formed is filtered, then taken up in 20 ml of distilled water and the mixture is acidified using concentrated hydrochloric acid. The suspension is stirred for 2 hours at a temperature in the region of 20° C. and then filtered, washed with water and dried under partial vacuum (1 mm Hg, 0.13 kPa) at 100° C. After recrystallization from dimethylformamide, there is obtained 0.22 g of 8-(3-carboxymethylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one dihydrate in the form of a beige solid, the melting point of which is greater than 260° C. (Analysis C16H12N5O4 2.0.H2O.0.1DMF, % calculated C: 56.64, H: 3.86, N: 20.64, % found C: 56.7, H: 3.8, N: 21.0).

reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | 8-(3-ethoxycarbonylmethylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 1 g | C(C)OC(=O)CNC(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O | C18H17N5O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8-(3-carboxymethylureido)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one dihydrate | 0.22 g | O.O.C(=O)(O)CNC(NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1)=O | InChI=1S/C16H13N5O4.2H2O/c22-12(23)7-18-16(25)19-9-1-2-10-8(5-9)6-11-13(10)20-15(24)14-17-3-4-21(11)14;;/h1-5H,6-7H2,(H,20,24)(H,22,23)(H2,18,19,25);2*1H2
